US04285944
A solution of 1.97 g. (0.01 mole) 1,3-dimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime-6-hydrazone in 10 ml. trimethylorthobenzoate is refluxed under nitrogen for 18 hours at a bath temperature of 140° C. during which time all distillate is removed. The resulting mixture is cooled and evaporated to dryness in vacuo. After filtering the residue dissolved in 2% methanol-chloroform through silica gel, and evaporation of the filtrate gives 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide.

reactant | 1,3-dimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime-6-hydrazone | 0.01 mole | CC12OC(C(C(C1=NN)=NO)CC2)C | C9H15N3O2
reactant | trimethylorthobenzoate | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
product | 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide | C1(=CC=CC=C1)C=1N=NC2=C([N+]1[O-])C1C(OC2(CC1)C)C | C16H17N3O2
